US20010037039A1
3-[5-Methyl-3-(2-(N-methyl-N-(4-carboxyphenyl)aminosulfonyl)phenylsulfonyloxy) Phenoxy]propoxyguanidine
The title compound was prepared in 84% yield from 3-[5-methyl-3-(2-(N-methyl-N-(4-methoxycarbonylphenyl)aminosulfonyl)phenylsulfonyloxy)phenoxy]propoxyguanidine hydrochloride, as prepared in step b of Example 50, in a manner analogous to Example 27. 1H-NMR (300 MHz, DMSO-d6) δ8.17 (d, J=7.4 Hz, 1H), 7.97 (t, J=7.6 Hz, 1H), 7.90 (m, 4H), 7.61 (br s, 4H), 7.40 (d, J=7.7 Hz, 2H), 6.74 (s, 1H), 6.45 (s, 2H), 3.98 (t, J=6.2 Hz, 2H), 3.90 (t, J=6.3 Hz, 2H), 3.46 (s, 3H), 2.19 (s, 3H), 2.01 (pentet, J=6.2 Hz, 2H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C25H28N4O9S2: 593.1 (M+H), 615.1 (M+Na), 631.1 (M+K). Found: 593.1, 615.0, 630.9.

reactant | 3-[5-methyl-3-(2-(N-methyl-N-(4-methoxycarbonylphenyl)aminosulfonyl)phenylsulfonyloxy)phenoxy]propoxyguanidine hydrochloride | Cl.CC=1C=C(C=C(OCCCONC(=N)N)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N(C1=CC=C(C=C1)C(=O)OC)C
reactant | α-cyano-4-hydroxycinnamic acid | C(#N)C(C(=O)O)=CC1=CC=C(C=C1)O | C10H7NO3
product | 3-[5-Methyl-3-(2-(N-methyl-N-(4-carboxyphenyl)aminosulfonyl)phenylsulfonyloxy) Phenoxy]propoxyguanidine | 84% yield | CC=1C=C(C=C(OCCCONC(=N)N)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N(C1=CC=C(C=C1)C(=O)O)C | C25H28N4O9S2
